.title Wurlitzer 200A Preamp - R_ldr Transient Response
*
* PURPOSE: Verify transient behavior when R_ldr changes.
* Compare against DK preamp model to verify correctness.
*
*======================================================================
* TRANSISTOR MODEL (Ideal, matching DK model)
*======================================================================

.MODEL Q_IDEAL NPN(
+  IS=3.03E-14 BF=100000 NF=1.0 VAF=1000
+  RB=0 RE=0 RC=0
+  CJE=0 CJC=0 TF=0 TR=0)

*======================================================================
* SUPPLY
*======================================================================
Vcc vcc 0 DC 14.5

*======================================================================
* INPUT - small 1kHz sine at 1mV (matching Rust test)
*======================================================================
Vin in_sig 0 SIN(0 0.001 1000)

*======================================================================
* INPUT NETWORK
*======================================================================
R1 in_sig node_A 22K
Cin node_A base1 0.022U

*======================================================================
* BASE1 BIAS
*======================================================================
R2 vcc base1 2MEG
R3 base1 0 470K

*======================================================================
* STAGE 1
*======================================================================
Q1 coll1 base1 emit1 Q_IDEAL
Rc1 vcc coll1 150K
Cc3 coll1 base1 100P
Re1 emit1 0 33K
Ce1 emit1 fb_j 4.7U

*======================================================================
* FEEDBACK NETWORK
*======================================================================
R10 out fb_j 56K

* R_ldr: step from 1M to 50K at t=0.5s
* Use behavioral source: R = 1M for t<0.5, 50K for t>=0.5
* G_1M = 1e-6, G_50K = 2e-5
Bldr fb_j 0 I=V(fb_j) * (1e-6 + (2e-5 - 1e-6) * u(time - 0.5))

*======================================================================
* STAGE 2
*======================================================================
Q2 coll2 coll1 emit2a Q_IDEAL
Rc2 vcc coll2 1.8K
Re2a emit2a emit2b 270
Ce2 emit2a emit2b 22U
Re2b emit2b 0 820
Cc4 coll2 coll1 100P

*======================================================================
* OUTPUT
*======================================================================
R9 coll2 out 6.8K

*======================================================================
* ANALYSIS
*======================================================================

.control

* Transient analysis: 0 to 4 seconds, step=10us
* Longer to see full settling
tran 10u 4.0 uic

* Use .meas-like approach: find values at specific times
* ngspice batch: use let + interpolation

echo "================================================================"
echo "  R_ldr STEP TRANSIENT: 1M -> 50K at t=0.5s"
echo "================================================================"

* Write key node voltages to a file for easy parsing
wrdata /tmp/rldr_transient_out.csv v(out) v(coll2) v(emit1) v(fb_j)

* Measure at specific time points using meas
meas tran v_emit1_before FIND v(emit1) AT=0.49
meas tran v_fbj_before FIND v(fb_j) AT=0.49
meas tran v_coll2_before FIND v(coll2) AT=0.49
meas tran v_out_before FIND v(out) AT=0.49

meas tran v_emit1_1ms FIND v(emit1) AT=0.501
meas tran v_fbj_1ms FIND v(fb_j) AT=0.501
meas tran v_coll2_1ms FIND v(coll2) AT=0.501
meas tran v_out_1ms FIND v(out) AT=0.501

meas tran v_emit1_10ms FIND v(emit1) AT=0.51
meas tran v_fbj_10ms FIND v(fb_j) AT=0.51
meas tran v_coll2_10ms FIND v(coll2) AT=0.51
meas tran v_out_10ms FIND v(out) AT=0.51

meas tran v_emit1_100ms FIND v(emit1) AT=0.6
meas tran v_fbj_100ms FIND v(fb_j) AT=0.6
meas tran v_coll2_100ms FIND v(coll2) AT=0.6
meas tran v_out_100ms FIND v(out) AT=0.6

meas tran v_emit1_500ms FIND v(emit1) AT=1.0
meas tran v_fbj_500ms FIND v(fb_j) AT=1.0
meas tran v_coll2_500ms FIND v(coll2) AT=1.0
meas tran v_out_500ms FIND v(out) AT=1.0

meas tran v_emit1_1500ms FIND v(emit1) AT=2.0
meas tran v_fbj_1500ms FIND v(fb_j) AT=2.0
meas tran v_coll2_1500ms FIND v(coll2) AT=2.0
meas tran v_out_1500ms FIND v(out) AT=2.0

meas tran v_emit1_3500ms FIND v(emit1) AT=4.0
meas tran v_fbj_3500ms FIND v(fb_j) AT=4.0
meas tran v_coll2_3500ms FIND v(coll2) AT=4.0
meas tran v_out_3500ms FIND v(out) AT=4.0

echo ""
echo "Done."

.endc
.end
